US09102688B2
5,6-Dimethyl-8-nitroquinoline (Intermediate 43)
In a similar fashion using route 10 general procedure 20, 4,5-dimethyl-2-nitroaniline (1.0 g, 6.0 mmol), glycerol (1.0 g, 11.4 mmol), 3-nitrobenzenesulfonic acid sodium salt (2.2 g, 9.6 mmol) and H2SO4/H2O (3 ml, 7:1), further reagents added over 4 days, gave the title compound (200 mg, 16%) which was used in the next step without purification.

reactant | 4,5-dimethyl-2-nitroaniline | 6.0 mmol, 1.0 g | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | glycerol | 11.4 mmol, 1.0 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 9.6 mmol, 2.2 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 3 ml | OS(=O)(=O)O.O
product | 5,6-Dimethyl-8-nitroquinoline | 200 mg, 16% | CC1=C2C=CC=NC2=C(C=C1C)[N+](=O)[O-] | C11H10N2O2
